US07521457B2
b) 1-methyl-4-nitro-1,2-dihydro-indazol-3-one
306 mg (1.7 mmol) 4-nitro-1,2-dihydro-indazol-3-one are dissolved in 1 ml N,N-dimethyl-acetamide, combined with 150 μl (2.4 mmol) methyl iodide and 500 μl (2.32 mmol) of N-ethyldiisopropylamide and stirred for 2 h at ambient temperature. Then the reaction mixture is combined with 40 ml of a 1 N aqueous hydrochloric acid and extracted twice with 50 ml dichloromethane. Then the organic phase is dried with MgSO4, the solvent is eliminated in vacuo and the crude product is purified by chromatography. The carrier used is C18-RP-silica gel and a gradient is run through which consists of 95% water and 5% acetonitrile at the starting point and 5% water and 95% acetonitrile at the finishing point.

reactant | 4-nitro-1,2-dihydro-indazol-3-one | 1.7 mmol, 306 mg | [N+](=O)([O-])C1=C2C(NNC2=CC=C1)=O | C7H5N3O3
reactant | methyl iodide | 2.4 mmol, 150 μl | CI | CH3I
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | N,N-dimethyl-acetamide | 1 ml | CN(C(C)=O)C | C4H9NO
product | 1-methyl-4-nitro-1,2-dihydro-indazol-3-one | CN1NC(C2=C(C=CC=C12)[N+](=O)[O-])=O | C8H7N3O3
